US06150297
Preparation of (1,3-dimethyl-1H -cyclopenta[l]phenanthrene-2-yl)dimethyl(t-butylamino)silane
To a 500 ml round bottom flask containing 2.420 g (0.00718 mole) of (1,3-dimethyl-1H-cyclopenta[l]phenanthrene-2-yl)dimethylchlorosilane and 250 ml of methylene chloride was added 1.331 g (0.0180 mole) of t-butylamine. The reaction mixture was allowed to stir for several days, then filtered using diatomaceous earth filter aid (Celite™), washed twice with hexane. The product was isolated by removing residual solvent under reduced pressure. The isolated yield was 2.120 g (79.0 percent). 1H NMR analysis indicated the predominant isomer was substituted at the 2 position.

reactant | (1,3-dimethyl-1H-cyclopenta[l]phenanthrene-2-yl)dimethylchlorosilane | 0.00718 mole, 2.420 g | CC1C(=C(C2=C1C1=CC=CC=C1C=1C=CC=CC21)C)[Si](Cl)(C)C | C21H21ClSi
reactant | t-butylamine | 0.0180 mole, 1.331 g | C(C)(C)(C)N | C4H11N
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | (1,3-dimethyl-1H -cyclopenta[l]phenanthrene-2-yl)dimethyl(t-butylamino)silane | CC1C(=C(C2=C1C1=CC=CC=C1C=1C=CC=CC21)C)[Si](NC(C)(C)C)(C)C | C25H31NSi
